US05622954
Under a nitrogen atmosphere, a stirred solution of 6.9 grams (0.053 mole) of vinylmagnesium bromide in 50 mL of tetrahydrofuran is cooled to 10°-15° C., and 10.0 grams (0.053 mole) of 2,5-dichloroacetophenone is added dropwise during a 20 minute period. Upon completion of addition the reaction mixture temperature is maintained at 10°-15° C. for two hours. After this time the reaction mixture is poured into 100 mL of cold aqueous 10% hydrochloric acid solution. The mixture is shaken with 100 mL of diethyl ether, and the organic layer is separated. The aqueous layer is extracted with two 50 mL portions of diethyl ether. The combined organic layers are washed with one 50 mL portion of aqueous 5% hydrochloric acid solution and then with two 30 mL portions of an aqueous solution saturated with sodium chloride. The organic layer is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 12.3 grams of 3-hydroxy-3-(2,5-dichlorophenyl)-1-butene. The NMR spectrum is consistent with the proposed structure.

reactant | vinylmagnesium bromide | 0.053 mole, 6.9 grams | C(=C)[Mg]Br
reactant | 2,5-dichloroacetophenone | 0.053 mole, 10.0 grams | CC(=O)C1=C(C=CC(=C1)Cl)Cl | C8H6Cl2O
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-hydroxy-3-(2,5-dichlorophenyl)-1-butene | 12.3 grams | OC(C=C)(C)C1=C(C=CC(=C1)Cl)Cl | C10H10Cl2O
